US04217453
A solution of benzyl acetate (0.011 mol) in anhydrous tetrahydrofuran (5 ml) is added dropwise to solution of lithium diisopropylamide (0.011 mol) in anhydrous tetrahydrofuran (20 ml) at -78° C. After stirring 15 more min at -78° C. the reaction mixture is treated dropwise with a solution of N-(t-butyldimethylsilyl)-3-azido-4-(2-oxoethyl)-azetidin-2-one (0.01 mol) in tetrahydrofuran (10 ml). The mixture is stirred at -78° an additional 15 min and then quenched with 2.5 N hydrochloric acid (10 ml). The mixture is diluted with ethyl acetate, washed with water, 5% sodium bicarbonate solution, and brine, dried with magnesium sulfate, and evaporated under vacuum to afford N-(t-butyldimethylsilyl)-3-azido-4-(3-benzyloxycarbonyl-2-hydroxypropyl)-azetidin-2-one.

reactant | benzyl acetate | 0.011 mol | C(C)(=O)OCC1=CC=CC=C1 | C9H10O2
reactant | lithium diisopropylamide | 0.011 mol | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-(t-butyldimethylsilyl)-3-azido-4-(2-oxoethyl)-azetidin-2-one | 0.01 mol | [Si](C)(C)(C(C)(C)C)N1C(C(C1CC=O)N=[N+]=[N-])=O | C11H20N4O2Si
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(t-butyldimethylsilyl)-3-azido-4-(3-benzyloxycarbonyl-2-hydroxypropyl)-azetidin-2-one | [Si](C)(C)(C(C)(C)C)N1C(C(C1CC(CC(=O)OCC1=CC=CC=C1)O)N=[N+]=[N-])=O | C20H30N4O4Si
